US09399647B2
To a solution of 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid (3 g, 0.01 mol) in methanol (15 ml) was added catalytic amount of sulphuric acid (0.2 ml) and the solution was refluxed for 2 hrs. The methanol was distilled off, and the residue was washed with sodium bicarbonate solution to give 2 g (63%) of 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester as an off-white solid, which was used without further purification. 1H NMR (400 MHz, DMSO) δ ppm=1.73 (m, 4H), 2.6 (m, 2H), 2.78 (m, 2H), 2.83 (m, 4H), 3.37 (s, 3H), 12.18 (s, 1H). LC-MS: [M+H]=293.3.

reactant | 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid | 0.01 mol, 3 g | OC=1C2=C(N=C(N1)CCC(=O)O)SC1=C2CCCC1 | C13H14N2O3S
reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 15 ml | CO | CH4O
product | 3-(4-hydroxy-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl)-propionic acid methyl ester | 2 g, 63% | COC(CCC=1N=C(C2=C(N1)SC1=C2CCCC1)O)=O | C14H16N2O3S
